US05541032
Preparation of 4-tert-butylphenacylpyridinium chloride
The title compound was prepared similarly to Example 1 from 4-tert-butylphenacyl chloride and pyridine in a yield of 94%.

reactant | 4-tert-butylphenacyl chloride | C(C)(C)(C)C1=CC=C(C(CCl)=O)C=C1 | C12H15ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-tert-butylphenacylpyridinium chloride | yield of 94% | [Cl-].C(C)(C)(C)C1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C17H20NO.ClH/c1-17(2,3)15-9-7-14(8-10-15)16(19)13-18-11-5-4-6-12-18;/h4-12H,13H2,1-3H3;1H/q+1;/p-1
